US07091215B2
After dissolving 7-bromo-2-methoxypyrazolo[1,5-a]pyridine (400 mg) in acetic acid (4 mL), an aqueous solution (2 mL) containing sodium nitrite (134 mg) was added and the mixture was stirred at room temperature for 30 minutes. The precipitated crystals were collected by filtration and washed with water. After dissolving the obtained crude 7-bromo-2-methoxy-3-nitrosopyrazolo[1,5-a]pyridine, without further purification, in 1,2-dimethoxyethane (40 mL) and water (20 mL), 4,6-dimethyl-2-methoxyphenylboric acid (475 mg), tetrakis(triphenylphosphine)palladium (0) complex (203 mg) and barium hydroxide octahydrate (829 mg) were added and the mixture was heated and stirred at 80° C. for 1 hour. Water was added to the reaction mixture, extraction was performed with ethyl acetate, the organic layer was washed with brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography, and the title compound (200 mg) was obtained from the n-hexane:ethyl acetate (5:1) fraction as a brown oil.

reactant | 7-bromo-2-methoxypyrazolo[1,5-a]pyridine | 400 mg | BrC1=CC=CC=2N1N=C(C2)OC | C8H7BrN2O
reactant | sodium nitrite | 134 mg | N(=O)[O-].[Na+]
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 7-bromo-2-methoxy-3-nitrosopyrazolo[1,5-a]pyridine | BrC1=CC=CC=2N1N=C(C2N=O)OC | C8H6BrN3O2
